US07067517B2
4 Methyl-phenyl-carbamic acid 5-(4-methoxy-benzoylamino)-pyridin-2-yl ester
A solution of N-(6-hydroxy-pyridin-3-yl)-4-methoxy-benzamide (1.22 g, 5.00 mmol), N-methyl-N-N-phenylcarbamoyl chloride (0.85 g, 5.00 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.56 g, 5.00 mmol) in dimethylformamide (20 mL) was stirred at room temperature for 2 hours. Water (100 mL) was added. The solids were isolated by suction and washed with water. Crystallisation from ethyl acetate:heptane yielded the title compound (1.08 g, 57% yield).

reactant | N-(6-hydroxy-pyridin-3-yl)-4-methoxy-benzamide | 5.00 mmol, 1.22 g | OC1=CC=C(C=N1)NC(C1=CC=C(C=C1)OC)=O | C13H12N2O3
reactant | 1,4-diazabicyclo[2,2,2]octane | 5.00 mmol, 0.56 g | N12CCN(CC1)CC2 | C6H12N2
reactant | Water | 100 mL | O | H2O
reactant | heptane | CCCCCCC | C7H16
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl-phenyl-carbamic acid 5-(4-methoxy-benzoylamino)-pyridin-2-yl ester | 1.08 g, 57% yield | COC1=CC=C(C(=O)NC=2C=CC(=NC2)OC(N(C2=CC=CC=C2)C)=O)C=C1 | C21H19N3O4
